US06867198B2
3-(7-(Triisopropylsilyloxy)methyl-1H-indol-3-yl)-4-(5,6-dihydro-4H-pyrrolo [3,2,1-ij]quinolin-1-yl)-pyrrole-2,5-dione
Beginning with 7-((triisopropylsilyloxy)methyl)indole-3-glyoxylic acid methyl ester and 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | 7-((triisopropylsilyloxy)methyl)indole-3-glyoxylic acid methyl ester | COC(C(=O)C1=CNC2=C(C=CC=C12)CO[Si](C(C)C)(C(C)C)C(C)C)=O | C21H31NO4Si
reactant | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide | C1(=CN2CCCC3=CC=CC1=C23)CC(=O)N | C13H14N2O
product | 3-(7-(Triisopropylsilyloxy)methyl-1H-indol-3-yl)-4-(5,6-dihydro-4H-pyrrolo [3,2,1-ij]quinolin-1-yl)-pyrrole-2,5-dione | C(C)(C)[Si](OCC=1C=CC=C2C(=CNC12)C=1C(NC(C1C1=CN2CCCC3=CC=CC1=C23)=O)=O)(C(C)C)C(C)C | C33H39N3O3Si
